US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-methyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide hydrochloride
A solution (5 to 10%) of hydrogen chloride/methanol was heated to 50° C., and N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-methyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide (500 mg, 0.93 mmol) was added. The mixture was stirred for 5 min and at room temperature for 30 min. The precipitate was collected by filtration and washed with methanol to give the title compound (420 mg, 79%) as white crystals.

reactant | hydrogen chloride methanol | Cl.CO
reactant | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-methyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide | 0.93 mmol, 500 mg | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=CC=CC=C2)=O)F)C1 | C30H24FN5O4
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-methyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide hydrochloride | 420 mg, 79% | Cl.C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=CC=CC=C2)=O)F)C1 | InChI=1S/C30H24FN5O4.ClH/c1-18-7-12-23(30(39)36(18)21-5-3-2-4-6-21)29(38)32-20-10-13-25(24(31)15-20)40-22-11-14-27-33-26(17-35(27)16-22)34-28(37)19-8-9-19;/h2-7,10-17,19H,8-9H2,1H3,(H,32,38)(H,34,37);1H
